US09233968B1
To a nitrogen bubbled solution of 6-iodo-imidazo[1,2-b]pyridazin-2-ylamine (260 mg, 1 mmol, 1 eq) and 1-(4-ethynylphenyl)-3-(3-methylphenyl)urea (375 mg, 1.5 eq) in DMF (5 mL) was added triethylamine (0.56 mL, 4 eq), bis(triphenylphosphine)palladium(II) dichloride (70.2 mg, 0.1 eq), and copper(I) iodide (38.1 mg, 0.2 eq). The reaction mixture was stirred at room temperature for 10 minutes and then partitioned between saturated aq NaHCO3 and i-PrOH—CHCl3 (1:4). The aqueous layer was extracted once more with i-PrOH—CHCl3 (1:4). The two organic layers were combined, washed with brine, and dried with anhydrous Na2SO4. The upper clear liquid was decanted, concentrated with silica gel, and the solid mixture was chromatographed (eluted from DCM to MeOH-DCM 1:15). The product fractions were collected and concentrated. The solid residue was triturated with EtOAc-Hex (1:1) and gave 1-{4-[(2-aminoimidazo[1,2-b]pyridazin-6-yl)ethynyl]phenyl}-3-(3-methylphenyl)urea as a brown solid upon filtration in amount of 133 mg.

reactant | 6-iodo-imidazo[1,2-b]pyridazin-2-ylamine | 1 mmol, 260 mg, 1 eq | IC=1C=CC=2N(N1)C=C(N2)N | C6H5IN4
reactant | 1-(4-ethynylphenyl)-3-(3-methylphenyl)urea | 375 mg, 1.5 eq | C(#C)C1=CC=C(C=C1)NC(=O)NC1=CC(=CC=C1)C | C16H14N2O
reactant | triethylamine | 0.56 mL, 4 eq | C(C)N(CC)CC | C6H15N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 70.2 mg, 0.1 eq | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 38.1 mg, 0.2 eq | [Cu]I
product | 1-{4-[(2-aminoimidazo[1,2-b]pyridazin-6-yl)ethynyl]phenyl}-3-(3-methylphenyl)urea | NC=1N=C2N(N=C(C=C2)C#CC2=CC=C(C=C2)NC(=O)NC2=CC(=CC=C2)C)C1 | C22H18N6O
